US05064833
2,4-Dichloroquinazoline (3.0g 0.015 mol) was stirred in a mixture of water (60 ml), tetrahydrofuran (100 ml), o-methylbenzylamine (1.83 g, 0.015 mol) and sodium acetate (1.38 g, 0.017 mol) for a total of 16 hours. The reaction mixture was evaporated under reduced pressure and crystallised from ethanol to give 2-chloro-4-(2-methylbenzylamino)quinazoline (1.44 g, 30%), m.p. 215°-217°.

reactant | 2,4-Dichloroquinazoline | 0.015 mol, 3.0g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | o-methylbenzylamine | 0.015 mol, 1.83 g | CC1=C(CN)C=CC=C1 | C8H11N
reactant | sodium acetate | 0.017 mol, 1.38 g | C(C)(=O)[O-].[Na+]
solvent | water | 60 ml | O | H2O
product | 2-chloro-4-(2-methylbenzylamino)quinazoline | 1.44 g, 30% | ClC1=NC2=CC=CC=C2C(=N1)NCC1=C(C=CC=C1)C | C16H14ClN3
